US05952511
(RS)-3-((4-Methylbenzyl)carbonylamino)indolin-2-one
A solution of 4.86 g of 3-(hydroxyimino)indolin-2-one and 100 mg of 5% Rh/C in 300 ml of ethanol was stirred at room temperature under a hydrogen atmosphere for 1 day. The reaction mixture was filtered through Cerite, and the filtrate was concentrated. The concentrate was dissolved in 50 ml of N,N-dimethylformamide, and 5.15 g of dicyclohexylcarbodiimide, 3.83 g of 1-hydroxybenzotriazole, and 3.75 g of p-tolylacetic acid were added thereto successively. The mixture was stirred at the same temperature for 12 hours, whereupon a precipitate formed. The precipitate was filtered off, and the filtrate was concentrated. The concentrate was diluted with ethyl acetate and washed successively with dilute hydrochloric acid and saturated aqueous sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (chloroform/methanol=40/1) to afford 1.01 g (18%) of the title compound.

reactant | 3-(hydroxyimino)indolin-2-one | 4.86 g | ON=C1C(NC2=CC=CC=C12)=O | C8H6N2O2
reactant | ethanol | 300 ml | C(C)O | C2H6O
catalyst | Rh/C | 100 mg | [Rh] | Rh
product | (RS)-3-((4-Methylbenzyl)carbonylamino)indolin-2-one | 1.01 g, 18% | CC1=CC=C(CC(=O)NC2C(NC3=CC=CC=C23)=O)C=C1 | C17H16N2O2
